US08278343B2
Preparation 49: 3-[6-(4-Chloro-phenyl)-pyridin-3-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 6-(4-chloro-phenyl)-pyridin-3-ol (Preparation 23) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (116 mg, 47.7%)

reactant | 6-(4-chloro-phenyl)-pyridin-3-ol | ClC1=CC=C(C=C1)C1=CC=C(C=N1)O | C11H8ClNO
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[6-(4-Chloro-phenyl)-pyridin-3-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC=1C=NC(=CC1)C1=CC=C(C=C1)Cl | C27H27ClN2O5
